US07968538B2
t-Butyl 4-(3-(3,5-dichlorobenzylamino)-4-(2,2,2-trifluoroacetyl)phenyl)piperazine-1-carboxylate
A mixture of 1-(2-(3,5-dichlorobenzylamino)-4-fluorophenyl)-2,2,2-trifluoroethanone (0.78 g, 2.1 mmol), t-butyl piperazine-1-carboxylate (0.41 g, 2.2 mmol), N,N-diisopropylethylamine (0.8 mL, 4.4 mmol) and acetonitrile (10 mL) was heated at reflux for 18 h, cooled to room temperature and concentrated in vacuo. The residue was dissolved in ethyl acetate; this solution was washed with water, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using 10% ethyl acetate in hexanes as eluent to yield the title compounds as a yellow solid (0.31 g, 28%). 1H NMR (400 MHz, CDCl3): δ 9.38 (br, 1H), 7.67 (d, 1H), 7.31 (s, 1H), 7.21 (s, 2H), 6.13 (dd, 1H), 5.70 (d, 1H), 4.42 (d, 2H), 3.54 (m, 4H), 3.38 (m, 4H), 1.49 (s, 9H). MS (ESI) m/z: Calculated: 531; Observed: 532 (M+H+).

reactant | 1-(2-(3,5-dichlorobenzylamino)-4-fluorophenyl)-2,2,2-trifluoroethanone | 2.1 mmol, 0.78 g | ClC=1C=C(CNC2=C(C=CC(=C2)F)C(C(F)(F)F)=O)C=C(C1)Cl | C15H9Cl2F4NO
reactant | t-butyl piperazine-1-carboxylate | 2.2 mmol, 0.41 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N,N-diisopropylethylamine | 4.4 mmol, 0.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | t-Butyl 4-(3-(3,5-dichlorobenzylamino)-4-(2,2,2-trifluoroacetyl)phenyl)piperazine-1-carboxylate | 0.31 g, 28% | ClC=1C=C(CNC=2C=C(C=CC2C(C(F)(F)F)=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C(C1)Cl | C24H26Cl2F3N3O3
